US05175157
3-[(N-(3-(3-Methyl-phenoxy)-propyl)-hexahydro-azepin-3-yl)methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepinehydrochloride
Prepared from 7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine and N-[3-(3-methyl-phenoxy)-propyl]-3-chloromethylhexahydro-azepine analogously to Example 2.

reactant | 7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
reactant | N-[3-(3-methyl-phenoxy)-propyl]-3-chloromethylhexahydro-azepine | CC=1C=C(OCCCN2CC(CCCC2)CCl)C=CC1 | C17H26ClNO
product | 3-[(N-(3-(3-Methyl-phenoxy)-propyl)-hexahydro-azepin-3-yl)methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepinehydrochloride | Cl.CC=1C=C(OCCCN2CC(CCCC2)CN2CCC3=C(CC2=O)C=C(C(=C3)OC)OC)C=CC1 | InChI=1S/C29H40N2O4.ClH/c1-22-8-6-10-26(16-22)35-15-7-13-30-12-5-4-9-23(20-30)21-31-14-11-24-17-27(33-2)28(34-3)18-25(24)19-29(31)32;/h6,8,10,16-18,23H,4-5,7,9,11-15,19-21H2,1-3H3;1H
